US06566362B2
17.4 g of methazonic acid and 60 cm3 of a 37% aqueous hydrochloric acid solution were rapidly added, with stirring, to a solution of 8.7 g of 2-amino-4-chloro-3,5-difluorobenzaldehyde in 300 cm3 of ethanol, while the mixture was maintained at a temperature in the region of 35° C. The mixture was stirred for 16 hours at a temperature in the region of 20° C. The precipitate was dewatered and washed 3 times with 25 cm3 of diethyl ether. 8.1 g of 7-chloro-6,8-difluoro-3-nitroquinoline was obtained in the form of an orange-colored solid, which melted at 174° C.

reactant | methazonic acid | 17.4 g | C(/C=N\O)[N+](=O)[O-] | C2H4N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | 2-amino-4-chloro-3,5-difluorobenzaldehyde | 8.7 g | NC1=C(C=O)C=C(C(=C1F)Cl)F | C7H4ClF2NO
solvent | ethanol | 300 cm3 | C(C)O | C2H6O
product | 7-chloro-6,8-difluoro-3-nitroquinoline | 8.1 g | ClC1=C(C=C2C=C(C=NC2=C1F)[N+](=O)[O-])F | C9H3ClF2N2O2
